US05880158
(R)-N-Benzyl-2,3-dimethoxypropionamide
A 50% aqueous acetic acid solution (30 mL) containing (R)-N-benzyl-2,2-dimethyl-1,3-dioxolane-4-carboxamide (1.22 g, 5.19 mmol) was heated at reflux (30 min). The solvents were evaporated in vacuo and the resulting residue was purified by silica gel column chromatography (10% MeOH-CHCl3) to obtain the desired product as a white solid (0.86 g, 85%); mp 83°-84° C., Rf 0.35 (10% MeOH-CHCl3); [α]23D=+35.4° (c=0.19, MeOH); IR (KBr) 3336, 1649, 1623, 1542, 1400, 1319, 1110, 1049, 972, 739, 697 cm-1 ; 1H NMR (DMSO-d6) δ 3.42-3.55 (m, CHH'OH), 3.53-3.64 (m, CHH'OH), 3.89-3.95 (m, CHOH), 4.28 (d, J=6.0 Hz, CH2Ph), 4.74 (t, J=5.7 Hz, CH2OH), 5.57 (d, J=5.4Hz, CHOH) 7.19-7.35 (m, PhH), 8.24 (t, J=6.0 Hz, NH); 13C NMR (DMSO-d6) 41.7 (CH2Ph), 64.0 (CH2OH), 73.1 (CHOH), 126.6 (C4 '), 127.2 (2C2 ' or 2C3 '), 128.2 (2C2 ' or 2C3 '), 139.6 (C1 '), 172.2 (C(O)NH) ppm; MS(+Cl) (rel. intensity) 196 (M+ +1, 100); Mr (+Cl) 196.098 03 [M+ +1] (calcd. for C10H14NO3 196.097 37); Anal. (C10H13NO3) C, H, N.

reactant | (R)-N-benzyl-2,2-dimethyl-1,3-dioxolane-4-carboxamide | 5.19 mmol, 1.22 g | C(C1=CC=CC=C1)NC(=O)[C@@H]1OC(OC1)(C)C | C13H17NO3
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | (R)-N-Benzyl-2,3-dimethoxypropionamide | 0.86 g, 85% | C(C1=CC=CC=C1)NC([C@@H](COC)OC)=O | C12H17NO3
